US07399759B2
3-[2-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid
tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate (1.00 g, 2.4 mmol) was dissolved in trifluoroacetic acid (10 ml), and the mixture was stirred at 0° C. for 2 hrs. The solvent was evaporated, and the residue was recrystallized from hexane-tetrahydrofuran-methanol to give the titled compound (0.66 g, 76%) as white crystals.

reactant | tert-Butyl 3-[2-(7-chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propanoate | 2.4 mmol, 1.00 g | ClC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19ClN2O3S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[2-(7-Chloro-4-oxo-4H-1,3-benzothiazin-2-yl)-4-pyridyl]propionic acid | 0.66 g, 76% | ClC1=CC2=C(C(N=C(S2)C2=NC=CC(=C2)CCC(=O)O)=O)C=C1 | C16H11ClN2O3S
